US05866592
Ethyl N-(N-(4-(4-morpholinoimidoyl)benzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate
To the obtained N-(N-Boc-βethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid ethyl ester (0.38 g, 0.95 mmol) were added anisole (0.3 ml) and TFA (10 ml) and the mixture was stirred for 1 hour under cooling with ice. After the TFA was distilled off at room temperature, the residue was washed with hexane 3 times and dissolved in DMF (20 ml) under cooling with ice. After the resulting solution was neutralized with triethylamine, 4-(4-morpholinoimidoyl)benzoic acid (0.25 g, 1.05 mmol), HOBT (0.14 g, 1.05 mmol) and WSDC (0.22 g, 1.14 mmol) were added thereto and the mixture was stirred overnight. After the solvent was distilled off, the residue was dissolved in ethyl acetate, washed sequentially with a 5% aqueous solution of citric acid, a 5% aqueous solution of sodium hydrogencarbonate and saturated saline 3 times each, and dried over anhydrous sodium sulfate. After the solvent was distilled off, the residue was applied to a silica gel column (2.1 φ×20 cm) and eluted with a mixed solution (chloroform:ethanol=30:1). The desired fractions were collected and the solvents were distilled off to yield a powder of the titled compound (108 mg, 22%).

reactant | N-(N-Boc-βethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid ethyl ester | 0.95 mmol, 0.38 g | C(C)OC(CC1CCN(CC1)C(C(C(NC(=O)OC(C)(C)C)CC)(C)C)=O)=O | C21H38N2O5
reactant | anisole | 0.3 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-(4-morpholinoimidoyl)benzoic acid | 1.05 mmol, 0.25 g | N1(CCOCC1)C(=N)C1=CC=C(C(=O)O)C=C1 | C12H14N2O3
reactant | HOBT | 1.05 mmol, 0.14 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Ethyl N-(N-(4-(4-morpholinoimidoyl)benzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate | 108 mg, 22% | N1(CCOCC1)C(=N)C1=CC=C(C(=O)NC(C(C(=O)N2CCC(CC2)CC(=O)OCC)(C)C)CC)C=C1 | C28H42N4O5
